### PR TITLE
feat: verification of binary heap

### PR DESCRIPTION
**Pull request by cmlsharp**
This PR is still a work in progress, but I wanted to get it out there.

This PR begins the process of addressing #1442. Thus far I have managed to prove that `heapifyDown`, `heapifyUp`, and `mkHeap` preserve the binary heap correctness property, These should be the lions share of the difficulty, as the remaining operations are largely wrappers around the former two.

As suggested in that thread, this PR also alters the definition of `BinaryHeap` to use an `Ord` instance on the contained type rather than  a comparison function. The proofs additionally rely on `Std.OrientedOrd` and `Std.TransOrd`.  

The core correctness property is encoded as:

```lean
@[expose]
public def WF.children [Ord α] (a : Vector α sz) (i : Fin sz) : Prop :=
  let left := 2 * i.val + 1
  let right := left + 1
  (∀ _ : left < sz, compare a[i] a[left] |>.isGE) ∧
  (∀ _ : right < sz, compare a[i] a[right] |>.isGE)


@[expose]
public def WF [Ord α] (v : Vector α sz) : Prop :=
  ∀ i : Fin sz, WF.children v i
```

However, for proving `heapifyUp` it was more convenient to use a "bottom up" version of a correctness property

```lean
def WF.parent [Ord α] (a : Vector α sz) (i : Fin sz) : Prop :=
  ∀ _ : 0 < i.val, compare a[i] a[(i.val - 1)/2] |>.isLE
  
def WF.bottomUp [Ord α] (v : Vector α sz) : Prop :=
  ∀ i : Fin sz, WF.parent v i
```
I provide a theorem that `WF` is equivalent to `WF.bottomUp`.

### CODE REVIEW

**Comment by cmlsharp** [comment]
WIP

File: Batteries/Data/BinaryHeap/WF.lean [hunk 1]
```diff
@@ -0,0 +1,363 @@
...
+@[expose]
+def WF.TopDown [Ord α] (v : Vector α sz) : Prop :=
+  ∀ i : Fin sz, WF.Children v i
+
+/-- The well-formedness property of a binary heap -/
+@[expose]
+def WF [Ord α] (heap : BinaryHeap α) : Prop :=
+  WF.TopDown heap.vector
+
+instance [Ord α] {a : Vector α sz} {i : Fin sz} : Decidable (WF.Children a i) :=
```
Comment (fgdorais) [inline Batteries/Data/BinaryHeap/WF.lean]: `WF.Children` could be defined as `Bool` to avoid using `Decidable`.

File: Batteries/Data/BinaryHeap/WF.lean [hunk 2]
```diff
@@ -0,0 +1,363 @@
...
+  | left : InSubtree root k → InSubtree root (2 * k + 1)
+  | right : InSubtree root k → InSubtree root (2 * k + 2)
+
+namespace InSubtree
+
+@[simp]
+theorem le (ins : InSubtree j k) : j ≤ k := by
+  induction ins with omega
+
+theorem not_of_lt (hlt : k < j): ¬InSubtree j k := by
```
Comment (fgdorais) [inline Batteries/Data/BinaryHeap/WF.lean]:
```suggestion
theorem not_of_lt (hlt : k < j) : ¬InSubtree j k := by
```

File: Batteries/Data/BinaryHeap/WF.lean [hunk 3]
```diff
@@ -0,0 +1,363 @@
...
+      exact this ▸ .right (ih (n / 2) (by omega))
+
+/-- A child index is in the subtree of its parent. -/
+theorem of_child (h : j = 2 * i + 1 ∨ j = 2 * i + 2) : InSubtree i j := by
+  rcases h with h | h <;> (subst h; constructor; exact .refl)
+
+end InSubtree
+
+namespace WF
+variable {α : Type w} {sz : Nat}
```
Comment (fgdorais) [inline Batteries/Data/BinaryHeap/WF.lean]:
```suggestion

```

File: Batteries/Data/BinaryHeap/WF.lean [hunk 4]
```diff
@@ -0,0 +1,363 @@
...
+    (compare a[j] a[k]).isGE := by
+  induction hsub
+  case refl => grind only [Ordering.isGE]
+  all_goals
+    have ⟨hwf_m, _⟩ : WF.Children a ⟨‹_›, by omega⟩ := by
+      grind only [WF.Below, InSubtree.not_of_lt]
+    grind only [= Fin.getElem_fin, !Std.TransOrd.isGE_trans]
+
+/-- Parent dominates all descendants after setting a smaller value -/
+theorem parent_ge_subtree_of_set [Ord α] [Std.TransOrd α] [Std.OrientedOrd α]
```
Comment (fgdorais) [inline Batteries/Data/BinaryHeap/WF.lean]: `Std.TransOrd` implies `Std.OrientedOrd`.
```suggestion
theorem parent_ge_subtree_of_set [Ord α] [Std.TransOrd α]
```

File: Batteries/Data/BinaryHeap/WF.lean [hunk 5]
```diff
@@ -0,0 +1,363 @@
...
+    (compare a[0] a[k]).isGE :=
+  parent_ge_subtree
+    (hwf_at := hwf ⟨0, hne⟩)
+    (hwf_below := fun j _ => hwf j)
+    (hsub := InSubtree.mem_of_zero k.val)
+
+/-- "Dual" correctness property to WF.children. A node should be <= its parent
+    Used when verifying heapifyUp -/
+def Parent [Ord α] (a : Vector α sz) (i : Fin sz) : Prop :=
+  ∀ _ : 0 < i.val, compare a[i] a[(i.val - 1)/2] |>.isLE
```
Comment (fgdorais) [inline Batteries/Data/BinaryHeap/WF.lean]: I would use
```suggestion
def Parent [Ord α] (a : Vector α sz) (i : Fin sz) : Prop :=
  ∀ _ : 0 < i.val, compare a[(i.val - 1)/2] a[i] |>.isGE
```
That will require several other adjustments below.

The purpose is to avoid `Std.OrientedOrd` without `Std.TransOrd`. It's best to think of `Std.OrientedOrd` as if it was an implementation detail for `Std.TransOrd`, but don't be worried using it when it is *exactly* what's needed.

**Review by fgdorais — COMMENTED** [review]
This is very good work! The review will surely take several steps. This is what I had time for today. 

Key outtakes: 

* In Batteries, `variable` is discouraged but auto-implicits are encouraged. (The reverse is true in Mathlib.)
* In Batteries, `Bool` is preferable over `Prop` + `Decidable`. This is because `Decidable` is a class so it is not possible to fully control which decision algorithm is being used.
* Batteries also prefers comment headers over `section`s.

**Comment by cmlsharp** [comment]
FWIW I do not ever use the fact that WF is decidable. Leaving it a prop makes the theorem statements nicer. Should I just remove the decidable instance?

File: Batteries/Data/BinaryHeap/WF.lean (hunk 1 above)
Comment (cmlsharp) [reply Batteries/Data/BinaryHeap/WF.lean]: I do not actually use the fact that WF.Children is decidable, so I will just get rid of the instances entirely.

**Comment by cmlsharp** [comment]
I made a bunch of simplifications to a few of the lemmas, and factored out some duplicated shared structure between them.
